US07612114B2
To a solution of 2-ethoxyethylamine (502 mg) in water (4 ml) was added 1,4-dioxane (10 ml), and an aqueous solution of 1N sodium hydroxide (6 ml) and di-tert-butyl dicarbonate (1.4 g) were sequentially added thereto on an ice bath. The solution was stirred overnight while warming to room temperature. Water was added thereto, the solution was extracted with diethyl ether, then washed with brine, dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo to provide tert-butyl(2-ethoxyethyl)carbamate (1.1 g). To a suspension of 60% sodium hydride (253 mg) in tetrahydrofuran (2 ml) was added dropwise a solution of tert-butyl(2-ethoxyethyl)carbamate (1.1 g) in tetrahydrofuran (8 ml) on an ice bath. The solution was stirred for 30 minutes while warming to room temperature, then methyl iodide (0.7 ml) was added thereto on an ice bath, and the solution was stirred overnight while warming to room temperature. Water was added thereto, the solution was extracted with ethyl acetate, then washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo to provide the title compound (1.2 g).

reactant | 2-ethoxyethylamine | 502 mg | C(C)OCCN | C4H11NO
reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 1N, 6 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 1.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 4 ml | O | H2O
product | tert-butyl(2-ethoxyethyl)carbamate | 1.1 g | C(C)(C)(C)OC(NCCOCC)=O | C9H19NO3
